US08623859B2
N-(2-{4-[(2-aminopyrimidin-4-yl)amino]phenyl}ethyl)-5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)furan-3-carboxamide
The title compound was prepared according to general procedure AE using 5-({[(4-Methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)furan-3-carboxylic acid (60 mg, 0.15 mmol), CDI (51 mg, 0.31 mmol), DIPEA (0.134 mL, 0.76 mmol) and N4-[4-(2-aminoethyl)phenyl]pyrimidine-2,4-diamine (49 mg, 0.15 mmol) in DCE (1 mL). A portion of the crude product was purified using prep method A.

reactant | 5-({[(4-Methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)furan-3-carboxylic acid | 0.15 mmol, 60 mg | COC1=CC(=C(C(=C1)C)S(=O)(=O)N(C)CC1=CC(=CO1)C(=O)O)C | C16H19NO6S
reactant | CDI | 0.31 mmol, 51 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | DIPEA | 0.76 mmol, 0.134 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | N4-[4-(2-aminoethyl)phenyl]pyrimidine-2,4-diamine | 0.15 mmol, 49 mg | NCCC1=CC=C(C=C1)NC1=NC(=NC=C1)N | C12H15N5
solvent | DCE | 1 mL | ClCCCl | C2H4Cl2
product | N-(2-{4-[(2-aminopyrimidin-4-yl)amino]phenyl}ethyl)-5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)furan-3-carboxamide | NC1=NC=CC(=N1)NC1=CC=C(C=C1)CCNC(=O)C1=COC(=C1)CN(C)S(=O)(=O)C1=C(C=C(C=C1C)OC)C | C28H32N6O5S
